US07479575B2
c) Step 4: Synthesis of 1-bromo-4-[(4-ethylphenyl) ethynyl] benzene (VIIc)
To a 100 mL flask containing a solution of 1-bromo-4-[(Z)-2-chloro-2-(4-ethylphenyl) vinyl] benzene (VIc) (9.540 g; 29.66 mmol) in 1,4-dioxane (48 mL; 5 vols) and MeOH (14 mL; 1.5 vols), KOH (3.328 g; 59.32 mmol) was added in one portion. Protocol and work-up was then similar with those described above. Title compound (m=8.39 g) was obtained in a 99% yield. Melting point: 117° C.

reactant | 1-bromo-4-[(Z)-2-chloro-2-(4-ethylphenyl) vinyl] benzene | 29.66 mmol, 9.540 g | BrC1=CC=C(C=C1)\C=C(\C1=CC=C(C=C1)CC)/Cl | C16H14BrCl
reactant | KOH | 59.32 mmol, 3.328 g | [OH-].[K+]
solvent | 1,4-dioxane | 48 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 14 mL | CO | CH4O
product | 1-bromo-4-[(4-ethylphenyl) ethynyl] benzene | 8.39 g, 99% yield | BrC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CC | C16H13Br
